Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
worsening cerebral edema
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ woman with a past medical history 
of hypertension, hyperkalemia, muscular weakness, thyroid 
toxicity, recent left hemispheric stroke presenting as transfer 
due to worsening cerebral edema and left ___ nerve palsy.

History obtained from transfer records and notes from ___ 
___ (___).  Some limited history obtained from son 
and sister.
Stroke fellow, Dr. ___ further history from ___ 
___ and ___ PA (___) at ___.

Per son and sister, patient had a stroke on ___.  She was 
aphasic with right-sided hemiparesis and was admitted to ___ 
___.  Son remembers that this was because by a 
left ICA occlusion.  Son is not sure whether patient received 
tPA.  Patient was discharged to ___ and then 
transferred to ___ on ___.  Son notes that 
patient has been severely aphasic and severe right-sided 
weakness for the past month while in rehab.  Sister last saw 
patient 2 weeks ago and feels that she was improving slightly 
and was able to say a couple sentences.

Per ___ notes, patient had left MCA stroke on ___, but 
___ was unsuccessful in trying to to obtain records from 
___.  This is likely the date that 
patient was admitted to ___, not the date of the 
initial stroke.

Last known well was 10 ___ last night on ___.  At 8 AM in 
the morning, rehab staff noticed a reported "left facial droop" 
and jumbled speech more garbled than before with left-sided 
drooling.  Son states that the rehab told him that she had a 
left facial droop but also something was wrong with her eye.  
Per stroke fellow's communication with rehab staff reading from 
previous shifts notes, the left facial droop may have been the 
left eyelid droop.  At ___, neurology consultant (Dr. 
___ did not appreciate a left facial droop.  ___ ___ note 
document left eyelid droop, left pupil sluggish and dilated.  
She was awake, agitated and speaking clearly though not making 
sense.

Urgent head CT showed "no hemorrhage, lots of edema worse on the 
left side of the brain, midline shift to the right."  CT 
angiogram showed left internal carotid artery fully occluded 
confirming subacute appearing large left cerebral hemisphere 
infarct involving both anterior and posterior circulation with 
extensive edema.  Right with midline shift.  Minimal flow to the 
left middle cerebral artery from collaterals from the right 
circulation and no definitive flow seen in the left posterior 
cerebral artery.

Patient is very agitated and resistant to physical exam limiting 
evaluation ___.  She required Haldol 2 mg and Ativan 1 mg 
which allowed her to get an MRI. MRI showed acute/subacute 
ischemia of almost the entire left cerebral hemisphere with 
extensive mass effect with gyriform edema, mass effect with 
midline shift to the right by a 11 mm, subfalcine herniation, 
and left uncal herniation but without significant tonsillar 
herniation.

The neurologist noted that patient is not a surgical candidate 
and recommended admission to medicine.  However, hospital 
medicine was not comfortable admitting the patient without 
neurosurgery present at ___ due to cerebral edema, midline 
shift, herniation on imaging. 

Patient was transferred to ___.  On arrival, code stroke was 
called but canceled due to patient already having received all 
the necessary imaging demonstrating a completed left hemispheric 
infarct.

Patient was found to have a L ___ nerve palsy with L pupil 
dilated and fixed at 5 mm, ptosis, and L eye down and out. 
Patient was awake, alert and speaking a few words but unable to 
communicate.  Mostly says no.  Occasionally, she answers 
appropriately or will follow one command. Left side was moving 
antigravity. R facial weakness and R sided weakness from prior 
stroke.

Stat head CT showed worsening edema and midline shift increased 
to 18 mm from 16 mm with left uncal herniation.  Patient is not 
a surgical candidate due to location and size of the subacute 
stroke and age.
In the ___, patient received mannitol 50 g x 1.

Goals of care were discussed with HCP (sister) and son and 
patient was made DNR/DNI.  After further discussion with both 
family members, patient was made CMO.

 
Past Medical History:
PMH:
hypertension, hyperkalemia, muscular weakness, thyroid toxicity

Sister states that patient has secondary hypothyroidism due to 
treatment toxicity and is on levothyroxine which is not noted as 
at home medication.

 
Social History:
SOCIAL HISTORY:
Lives with her sister/HCP.  She is a retired ___ at a 
school.  She has 2 living sons in their ___.  One son passed 
away earlier this year in ___.
Former heavy smoker with 2 PPD for ___ years.
Alcohol: Occasional
Drug use: None
 
Sister reports patient was fully functional prior to her stroke. 
 

- Modified Rankin Scale:
[] 0: No symptoms
[] 1: No significant disability - able to carry out all usual 
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without 
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk 
unassisted
[] 4: Moderately severe disability: unable to attend to own 
bodily needs without assistance and unable to walk unassisted
[x] 5: Severe disability: requires constant nursing care and 
attention, bedridden, incontinent
[] 6: Dead
 

 
Family History:
FAMILY HISTORY:
___
Sister-atrial fibrillation
___ siblings
Alcoholism-Father, mother      
 
Physical ___:
Admit Exam

PHYSICAL EXAMINATION: 
Vitals: T: 97.8   HR: 115   BP: 128/64   RR: 18   SaO2: 96% on 
room air

General: Awake, agitated elderly woman.
HEENT: NC/AT, prominent left ptosis, no scleral icterus noted, 
MMM 
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions appreciated.
 
Neurologic:
-Mental Status: Alert, awake.  Tracks in regards.  Says no 
repeatedly.  Also with other spontaneous speech output but 
unable to communicate her needs.  Patient followed rare commands 
was able to stick out her tongue once and squeeze hand once.

-Cranial Nerves:
L pupil 5mm fixed, R pupil 3 to 2mm and brisk. L eye down and 
out. EOMI in R eye.  No blink to threat on the right, likely 
complete right hemianopia. Right facial droop. Tongue protrudes 
in midline 

-Motor: Right arm flexed with spastic dystonia. 
Left arm with spontaneous antigravity movements.
Right leg moving less than left leg with no antigravity effort, 
withdraws.
Left leg moving antigravity spontaneously.

-Sensory: Responds to noxious stimuli in all 4 extremities.

-Reflexes: Unable to elicit reflexes as patient is uncooperative 
on exam.
No clonus at the ankles.
Toes upgoing on the right, mute on the left.
-Coordination: Unable to assess

-Gait: Unable to assess

Discharge Exam

Deferred due to comfort ___

Patient was comfortable with noted ptosis and decreased level of 
arousal. No respiratory distress. 
 
Pertinent Results:
Admission Labs

___ 05:50PM BLOOD WBC-11.8* RBC-4.45 Hgb-12.8 Hct-41.4 
MCV-93 MCH-28.8 MCHC-30.9* RDW-14.1 RDWSD-48.0* Plt ___
___ 05:50PM BLOOD Neuts-69.5 Lymphs-17.7* Monos-8.2 
Eos-0.8* Baso-0.6 Im ___ AbsNeut-8.17* AbsLymp-2.08 
AbsMono-0.96* AbsEos-0.09 AbsBaso-0.07
___ 05:50PM BLOOD ___ PTT-40.4* ___
___ 05:50PM BLOOD Glucose-109* UreaN-79* Creat-1.3* Na-151* 
K-5.6* Cl-113* HCO3-22 AnGap-16
___ 05:50PM BLOOD ALT-70* AST-100* AlkPhos-140* TotBili-0.5
___ 05:50PM BLOOD cTropnT-0.05*
___ 05:50PM BLOOD Albumin-4.2 Calcium-9.1 Phos-4.0 Mg-3.5*
___ 05:50PM BLOOD Osmolal-337*
___ 06:03PM BLOOD Glucose-122* Creat-1.4* Na-150* K-5.4 
Cl-120* calHC___

Imaging
___ ___: IMPRESSION:
 
 
1. Large left cerebral hemisphere subacute infarction involving 
the anterior
and posterior circulations.  There is slightly worsened 
rightward subfalcine
herniation with 1.8 cm rightward midline shift (previously 1.6 
cm).  Unchanged
right uncal herniation. No tonsillar herniation at this time.  
There is
persistent partial effacement of the suprasellar and 
quadrigeminal plate
cisterns.
2. Extensive left cerebral hemisphere gyriform hyperintensities 
are again seen
most conspicuous at the vertex which may reflect a combination 
of petechial
hemorrhage, subarachnoid hemorrhage and laminar necrosis.
3. Effacement of the left lateral ventricle with continued 
prominence of the
right and left temporal horns.

 
Brief Hospital Course:
___ woman with a past medical history of hypertension, 
hyperkalemia, muscular weakness, thyroid toxicity, recent left 
hemispheric stroke presenting as transfer due to worsening 
cerebral edema and left ___ nerve palsy.Original stroke caused 
by L ICA occlusion was on ___ per son. It is unclear why she 
has malignant cerebral edema so long after initial infarction. 
Initially, it was thought possible that patient's hyponatremia 
may have prevented early herniation and patient is experiencing 
rebound edema. But patient had intervening sodium levels which 
were normal.
Most likely explanation is that may be initial infarction was 
not complete and patient had further subacute infarction in the 
same vascular territories while at rehab which may not have been 
clinically apparent as patient already had aphasia and right 
hemiparesis. Patient had clinical and radiographic e/o uncal and 
subfalcine herniation and would have required decompressive 
hemi-crani. After further discussions, family was in agreement 
to prioritize patient's comfort and not continue with medical 
management so patient was made CMO.

TI
CMO Patient, prioritize comfort

 
Medications on Admission:
Per ___ records: 
"Current Outpatient Medications: 
•  alendronate (FOSAMAX) 70 mg/75 mL solution, Take 70 mg by 
mouth every 7 days. Take with water on an empty stomach; do not 
eat or lie down for the next ___ min., Disp: , Rfl: 
•  amlodipine-atorvastatin (CADUET) ___ mg per tablet, Take 1 
tablet by mouth daily., Disp: , Rfl: 
•  aspirin 81 mg EC tablet, Take 81 mg by mouth daily., Disp: , 
Rfl: 
•  atorvastatin (LIPITOR) 80 mg tablet, Take 80 mg by mouth 
daily., Disp: , Rfl: 
•  baclofen (LIORESAL) 10 mg tablet, Take 5 mg by mouth 3 
(three) times a day., Disp: , Rfl: 
•  calcium carbonate (TUMS) 200 mg calcium (500 mg) chewable 
tablet, Take 1 tablet by mouth daily., Disp: , Rfl:"

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN mild pain,tactile fever  
2.  HYDROmorphone (Dilaudid) 0.25-0.5 mg IV Q15MIN:PRN 
moderate-severe pain or respiratory distress  
3.  Hyoscyamine 0.125-0.25 mg SL Q4H:PRN excess secretions  
4.  LORazepam 0.5-2 mg IV Q2H:PRN anxiety  
5.  OLANZapine (Disintegrating Tablet) 5 mg PO Q4H:PRN delirium  

6.  Ondansetron 8 mg IV Q8H:PRN Nausea/Vomiting - First Line  

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Primary
Acute Ischemic Stroke
Malignant Cerebral Edema
Uncal herniation
Subfalcine herniation

 
Discharge Condition:
CMO
COmfortable

 
Discharge Instructions:
Dear ___,

You were transferred to ___ for neurologic care after 
suffering a significant stroke. Your strokes were so large that 
you suffered significant neurologic compromise and intracranial 
swelling. Unfortunately, your prognosis, with these large 
strokes, is unfavorable. After extensive discussion with your 
family members, we decided that we would better serve you by 
focusing on making you comfortable in your final days. We were 
very successful in doing this and you were able to be discharged 
to a ___ facility. 

Sincerely,
Your ___ Care Team. 
 
Followup Instructions:
___